US06753449B2
Synthesis of 2-allyl-5-aminopentanoic Acid
Diethyl allylmalonate was slowly added into a suspension of 1.1 eq. sodium hydride in DMF and stirred at RT for 5 minutes after addition. Then N-(3-bromopropyl)-phthalimide dissolved in DMF was added and the reaction mixture were stirred at 60° C. overnight. The solution was then slowly poured into 3 volumes of ice-water; alkylation product 2 precipitated, and the precipitate was collected by filtration. The filter cake was washed with water. HPLC analysis demonstrated that 2 was pure enough for use in the next step without further purification. Attempts to deprotect and decarboxylate 2 by refluxing in 6 M HCl did not yield the desired product. Instead, decarboxylation of 2 was achieved by refluxing in DMF with 1 eq of lithium bromide and 2 eq. of water for 40 hrs to yield desired intermediate 3. Compound 3 was converted into 4 by refluxing for 1 hr with 2 eq. NaOH (1M aq) in DMF, then 1 hr in water. After removing volatiles under vacuum, the residue was treated with 5 eq. of hydrazine, suspended in absolute ethanol, and refluxed overnight. Upon cooling, most of the liberated phthalhydrazide precipitated out; the precipitate was removed by filtration. After filtration, 2 eq. LiOH was added to the filtrate and the solvent was evaporated to afford crude 1 as its lithium salt. This was used directly for solid phase synthesis.

reactant | Diethyl allylmalonate | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | sodium hydride | 1.1 eq. | [H-].[Na+]
reactant | N-(3-bromopropyl)-phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | DMF | CN(C)C=O | C3H7NO
product | 2-allyl-5-aminopentanoic Acid | C(C=C)C(C(=O)O)CCCN | C8H15NO2
